US07666864B2
(S,S)—N-(3-{3-Fluoro-4-[2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-4-trifluoromethyl-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide:
(S,S)—N-(3-{3-Fluoro-4-[2-methyl-6-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyridin-3-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide. The title compound was prepared by following the same procedure as described in the preparation of Example 7, except 6(S)-(5-bromo-4-trifluoromethyl-pyrimidin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine was used in place of 6(S)-(5-bromo-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine. ESI MS m/z 582.5 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 7.63 (d, J=11.6 Hz, 1H), 7.48 (s, 1H), 7.32-7.25 (m, 2H), 6.02 (t, J=6.2 Hz, 1H), 5.75 (s, 1H), 4.94 (d, J=12.0 Hz, 1H), 4.83-4.82 (m, 1H), 4.60 (d, J=12.4 Hz, 1H), 4.49 (brs, 2H), 4.10 (t, J=9.8 Hz, 1H), 3.84 (t, J=7.8 Hz, 1H), 3.72-3.62 (m, 2H), 2.04 (s, 3H).

reactant | (S,S)—N-(3-{3-Fluoro-4-[2-methyl-6-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyridin-3-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C(=NC(=CC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])C)N2C(O[C@H](C2)CNC(C)=O)=O | C24H23FN6O7
reactant | 6(S)-(5-bromo-4-trifluoromethyl-pyrimidin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine | BrC=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])C(F)(F)F | C11H7BrF3N5O4
product | (S,S)—N-(3-{3-Fluoro-4-[2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-4-trifluoromethyl-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])C(F)(F)F)N2C(O[C@H](C2)CNC(C)=O)=O | C23H19F4N7O7
